US08183271B2
4-tert-Butyl-2-chloro-1-methylbenzene
A solution of 2 g (13.49 mmol) of 4-tert-butyltoluene is mixed with 5.65 g (13.49 mmol) of benzyltrimethylammonium tetrachloroiodate and stirred at 70° C. for 24 hours. After cooling, the precipitate is filtered off with suction and the filtrate is concentrated. The resulting residue is purified over silica gel (mobile phase: cyclohexane). 1.53 g (8.4 mmol) of the title compound are obtained.

reactant | 4-tert-butyltoluene | 13.49 mmol, 2 g | C(C)(C)(C)C1=CC=C(C=C1)C | C11H16
reactant | benzyltrimethylammonium tetrachloroiodate | 13.49 mmol, 5.65 g | I(=O)(=O)Cl.I(=O)(=O)Cl.I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
product | 4-tert-Butyl-2-chloro-1-methylbenzene | 8.4 mmol, 1.53 g | C(C)(C)(C)C1=CC(=C(C=C1)C)Cl | C11H15Cl
